US04840956
A suspension of 53.4 g (0.23 mol) of N-benzyl-N-(cyanomethyl)-N-[(trimethylsilyl)methyl]amine (J. Org. Chem., 50, 4006 (1985)), 41.2 g (0.25 mol) of methyl atropate, 32.2 g (0.25 mol) of silver fluoride and 1 l of acetonitrile was stirred overnight at room temperature in the dark. The mixture was diluted with chloroform and filtered through celite. Concentration of the filtrate gave an oil which was chromatographed on silica gel, eluting with an 80:20 chloroform:ethyl acetate mixture, to give 27.9 g of methyl 3-phenyl-1-(phenylmethyl)-3-pyrrolidinecarboxylate.

reactant | N-benzyl-N-(cyanomethyl)-N-[(trimethylsilyl)methyl]amine | 0.23 mol, 53.4 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)CC#N | C13H20N2Si
reactant | methyl atropate | 0.25 mol, 41.2 g | C(C(=C)C1=CC=CC=C1)(=O)OC | C10H10O2
reactant | acetonitrile | 1 l | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | silver fluoride | 0.25 mol, 32.2 g | [Ag]F
product | methyl 3-phenyl-1-(phenylmethyl)-3-pyrrolidinecarboxylate | 27.9 g | C1(=CC=CC=C1)C1(CN(CC1)CC1=CC=CC=C1)C(=O)OC | C19H21NO2
